US04484942
Into a 300 ml four-necked flask, there were charged benzene (200 ml), 4-fluoro-α,α-dimethylbenzylamine (7.7 g) and triethylamine (6.0 g), and o-methylphenylacetyl chloride (9.5 g) was dropwise added thereto at room temperature while stirring, followed by refluxing for 3 hours. After cooling, the reaction mixture was washed with water to remove triethylamine hydrochloride. After the benzene layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was recrystallized from ethanol to give 11.3 g of N-(4-fluoro-α,α-dimethylbenzyl)-o-methylphenylacetamide (Compound No. 11). M.P., 150°-151° C.

reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 4-fluoro-α,α-dimethylbenzylamine | 7.7 g | FC1=CC=C(C(C)(C)N)C=C1 | C9H12FN
reactant | o-methylphenylacetyl chloride | 9.5 g | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
solvent | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
product | N-(4-fluoro-α,α-dimethylbenzyl)-o-methylphenylacetamide | 11.3 g | FC1=CC=C(C(C)(C)NC(CC2=C(C=CC=C2)C)=O)C=C1 | C18H20FNO
